* Filtro LCL - barrido AC - corriente de red / tension de convertidor
Vconv conv 0 AC 1
L1    conv mid 0.0015
Rl1   mid  midr 0.025
Cf    midr cfa 1e-05
Rd    cfa  0 6.8
L2    midr out 0.0006
Rl2   out  0 0.025
.ac dec 400 10 200k
.backanno
.end
