* Precarga del bus DC a traves de la resistencia de soft-start
Vac  ac 0 PULSE(0 565.685424949238 1m 10u 10u 10 20)
Rpc  ac dcp 68.0
Cbus dcp 0 0.0006
Rbld dcp 0 100k
.tran 0.2m 500m uic
.backanno
.end
